**************************************************
* Manufacturer:       Wurth Elektronik
* Kinds:    Visible Chip LED
* Matchcode:          WL-SMSW SMT Mono-color Side view PLCC LED Watercle
* Library Type:       Pspice
* Version:        rev18a       
* Date and Time   :       2018-8-4
* Team:           eiSos EDA Service  
* Contact:        libraries@we-online.com
**************************************************
.subckt  1204_155124BS73200  1  2
D1 1 2 led
.MODEL led D
+ IS=867.86E-15
+ N=4.5815
+ RS=10.315
+ IKF=2.2977
+ CJO=0.0000000001075
+ M=0.1
+ VJ=9.99
.ends
******
.subckt  1204_155124GS73200  1  2
D1 1 2 led
.MODEL led D
+ IS=8.0842E-12
+ N=4.9950
+ RS=17.926
+ IKF=999
+ CJO=4.6733E-9
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  1204_155124VS73200  1  2
D1 1 2 led
.MODEL led D
+ IS=2.7215E-9
+ N=4.9950
+ RS=1.0000E-6
+ IKF=999
+ CJO=4.6733E-9
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  1204_155124YS73200  1  2
D1 1 2 led
.MODEL led D
+ IS=3.0978E-9
+ N=4.9950
+ RS=3.0912E-3
+ IKF=999
+ CJO=3.9474E-9
+ M=.1001
+ VJ=9.9900
.ends
******