.Subckt zxsc400 v+ve ven gnd vsense vfb vdrv
*
r2 v+ve gnd r=if(v(u2_out)<0.5,2Meg,37k)
x$arb1 v+ve u2_out ven v+ve vdrv arbsourcearb1
R Ven 0 1T
.global gnd
.Subckt arbsourcearb1 n1 n2 n3 outp outn
b1 outp outn i=if(v(n2)< .5,0.4m*uramp(v(n3)-0.93)*table( v(n1) , 0, 0, 1, 0, 1.2, .07, 1.4, 3, 1.5, 3.05,  2,  3.09, 2.5, 3.13 , 3,  3.16, 4,  3.22, 5,  3.28,  6, 3.33, 7,  3.37, 8,  3.17),-0.02)  cpar=10p rpar=100Meg tripdt=200n 

v1 vr gnd 0.1

D1 Vr  outn dm
Bv2 vr2 gnd v=v(n1)-0.4

D2 outn  vr2 dm
.model dm d vfwd=0 Ron=1 Roff=100meg Epsilon=10m
.Ends

*a$u1 u3_d u5_in1 u1$tp_digdly
*.Model u1$tp_digdly d_buffer stored_delay=msdel input_load=0
a$u1 u3_d  0 0 0 0 0  u5_in1 0 buf  td={msdel} trise=10n tfall=10n

*x$s1 vdrv gnd u2_out gnd gen_switch : ron=50 roff=1meg von=3 voff=2
s1      vdrv gnd u2_out gnd gen_switch
.model gen_switch vswitch ron=50 roff=1meg von=3 voff=2

*a$u2 [u4_out u3_clk ] u2_out u2$tp_gate
*.Model u2$tp_gate d_or rise_delay=1e-008 fall_delay=1e-008
a1 u4_out  u3_clk 0 0 0 0 u2_out 0 or  trise=10n tfall=10n

*a$u3 u3_d u3_clk gnd gnd u3_q u3_d dtype
A7     u3_d  0 u3_clk gnd gnd  u3_d u3_q  0  DFLOP trise=10n tfall=10n

x$s3 vdrv gnd vfb gnd vc_switch params: roff=1meg ron=1 threshold=270m hystwd=60m 

*a$u4 [u6_out u4_in2 ] u4_out u4$tp_gate
*.Model u4$tp_gate d_and rise_delay=1e-008 fall_delay=1e-008
a2 u6_out  u4_in2 0 0 0 0 u4_out 0 and  trise=10n tfall=10n

*a$u5 [u5_in1 u3_d ] u4_in2 u5$tp_gate
*.Model u5$tp_gate d_nand rise_delay=1e-008 fall_delay=1e-008
A3 u5_in1  u3_d 0 0 0  u4_in2 0 0 and  Trise=10n Tfall=10n

*a$u6 [u5_in1 u3_d ] u6_out u6$tp_gate
*.Model u6$tp_gate d_or rise_delay=1e-008 fall_delay=1e-008
a4 u5_in1  u3_d  0 0 0 0 u6_out 0 or  trise=10n tfall=10n

*a$u7 u8_out u3_clk u7$tp_digdly
*.Model u7$tp_digdly d_buffer stored_delay=propdel input_load=0
a6 u8_out  0 0 0 0 0  u3_clk 0 buf td={propdel} trise=10n tfall=10n

*a$u8 vsense u8_out kadc1
A5 vsense 0 0 0 0  0 u8_out 0 SCHMITT Vt=20m Vh=5m trise=10n tfall=10n

*.Model dtype d_dff
.Param propdel=300n
.Param msdel=2.3u ;msdel=2.3u


 *.Model kadc1 adc_schmitt in_low=15.0m  in_high=25.0m

.SUBCKT VC_SWITCH 1 2 3 4 params: ROFF=1MEG RON=1 THRESHOLD=2.5 HYSTWD=1 IC=0
*#LABELS ,Off Resistance::1n,On Resistance::1n,Threshold,Hysteresis::1f,Initial Condition:LIST:0 Off|1 On
*A1 %gd 3 4 out schmitt
A1 3  4 0 0 0  0   switch_control 0 SCHMITT Vt=270m Vh=30m   trise=10n tfall=10n 
*A2 out switch_control dabridge
S1 1 2 switch_control 0 SW

*.MODEL dabridge dac_bridge t_rise=10n t_fall=10n
*.MODEL schmitt adc_Schmitt in_low={THRESHOLD-HYSTWD/2} in_high={THRESHOLD+HYSTWD/2} init_cond={IC}
.MODEL SW sw roff=1Meg RON=1  vt=0.5 vh=0.3
.ENDS

.Ends zxsc400


