.subckt bandpass_filter_ in G OUT params: Z=50 FL=5kHz FH=50kHz KL=1.2 KH={1/1.2}
C1 in G {Ch} Rpar=1G
C2 N001 G {Ch} Rpar=1G
L1 in N001 {LH}
C3 N002 N001 {CL} Rpar=1G
L2 N002 G {LL}
C4 OUT N002 {CL} Rpar=1G
.param CH=1/(Z*2*pi*FH*KH) LH=Z/(2*pi*FH*KH)  CL=1/(Z*2*pi*FL*KL) LL=Z/(2*pi*FL*KL)
.ends bandpass_filter
