* (C) Copyright 2021 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
* Created with Shichman and Hodges JFET SPICE modeling
*
* Model Version: Final 1.0
*
* Final 1.0
* Release to Web.
*****************************************************************************
* Model Usage Notes:
* The following parameters are modeled: 
*      Static, large and small signals, and noise parameters
*
.SUBCKT JFE150_x D G S VCC VEE
.model DJFE150 D Is=1e-12 Cjo=0.1pF Rs=180k BV=22
.model NJFE150 NJF (BETA=31m BETATCE=.5 VTO=-975m VTOTC=2.5m LAMBDA=16.95m RD=3.5 RS=4.2 N=1 M=0.33 PB=0.705 IS=5.34f CGD=6.3p CGS=20.3p AF=1 KF=3.25e-18 FC=0.5)
*
J_J1         D G S NJFE150 
D_D1         G D   DJFE150
X_U1         D VCC VEE ESD_OUT_JFE150
X_U2         G VCC VEE ESD_OUT_JFE150
X_U3         S VCC VEE ESD_OUT_JFE150
*$
*
.SUBCKT ESD_OUT_JFE150 OUT VCC VEE
.MODEL ESD_SW VSWITCH(RON=50 ROFF=1E12 VON=700E-3 VOFF=100E-3)
S1 VCC OUT OUT VCC ESD_SW
S2 OUT VEE VEE OUT ESD_SW
.ENDS  ESD_OUT_JFE150
*$
.ENDS JFE150_x
